US04015016
1,3-Bis[(3,5-dibromo-2-benzyloxybenzylidene) amino]guanidine:
To a mixture of 2.1 grams (0.015 mole) of N,N'-diaminoguanidine, hydrochloride in 50 milliliters of 2B-ethanol and 2.0 milliliters of concentrated hydrochloric acid was added 11.1 grams (0.03 mole) of 2-benzyloxy-3,5-dibromobenzaldehyde. The mixture was stirred and heated to reflux temperature and maintained at this temperature overnight. At the completion of the reaction, the insoluble crystals contained in the reaction mixture were removed by filtration and dried under reduced pressure. The solid crude 1,3-bis[((3,5-dibromo-2-benzyloxybenzylidene)-amino]guanidine, hydrochloride product was mixed with 250 milliliters of benzene refluxed, recovered by filtration and dried. The product was obtained in a yield of 11.3 grams and melted at 217°-218° C. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 41.83, 3.00 and 8.48 percent, respectively, as compared with the theoretical contents of 41.98, 2.92 and 8.44 percent, respectively, calculated for the abovenamed structure.

reactant | N,N'-diaminoguanidine, hydrochloride | 0.015 mole, 2.1 grams | Cl.NNC(=N)NN
reactant | 2-benzyloxy-3,5-dibromobenzaldehyde | 0.03 mole, 11.1 grams | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1Br)Br | C14H10Br2O2
reactant | hydrogen | [H][H] | H2
solvent | hydrochloric acid | 2.0 milliliters | Cl | ClH
product | 1,3-Bis[(3,5-dibromo-2-benzyloxybenzylidene) amino]guanidine | BrC=1C(=C(C=NNC(=N)NN=CC2=C(C(=CC(=C2)Br)Br)OCC2=CC=CC=C2)C=C(C1)Br)OCC1=CC=CC=C1 | C29H23Br4N5O2
